US05518627
Into 1ι four-necked flask, 57 g (1.425 mol) of sodium hydroxide and 57 ml of deionized water were added under cooling with ice, and a solution of 98.33 g (0.428 mol) of 1,5-dibromopentane and 9.19 g (0.0285 mol) of tetrabutylammonium bromide in 285 mol of toluene was added thereto. The temperature of the solution was set at 50° C., and 70 ml of a toluene solution of 38.25 g (0.285 mol) of vinyl benzyl alcohol (a mixture of m-form and p-form) and 30 mg of DPPH, was dropwise added thereto over a period of one hour. Most of the raw material disappeared during the dropwise addition. This mixture was reacted at 60° C. for 8 hours with vigorous stirring. After the reaction, the organic phase was separated and thoroughly washed with water. This organic phase was dried over magnesium sulfate, and then toluene was distilled off under reduced pressure. The mixture thereby obtained was subjected to vacuum distillation (b.p. 107° to 108° C./40 Pa) in the presence of DPPH to obtain a liquid of a colorless transparent solution. The obtained solution was analyzed by NMR to determine its structure. The amount of 5-bromopentoxymethylstyrene obtained, was 40.8 g, and the yield was 51%.

reactant | sodium hydroxide | 1.425 mol, 57 g | [OH-].[Na+]
reactant | 1,5-dibromopentane | 0.428 mol, 98.33 g | BrCCCCCBr | C5H10Br2
reactant | vinyl benzyl alcohol | 0.285 mol, 38.25 g | C(=C)C(C1=CC=CC=C1)O | C9H10O
reactant | DPPH | 30 mg | C=1C=CC(=CC1)N(C=2C=CC=CC2)[N]C=3C(=CC(=CC3[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C18H12N5O6
catalyst | tetrabutylammonium bromide | 0.0285 mol, 9.19 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 57 ml | O | H2O
solvent | toluene | 285 mol | C1(=CC=CC=C1)C | C7H8
product | 5-bromopentoxymethylstyrene | yield was 51% | BrCCCCCOCC=CC1=CC=CC=C1 | C14H19BrO
